US04061761
c. 2-Chloro-3'-sulfamoylacetophenone
9.5 g of 3'-sulfamoyl-diazoacetophenone were reacted as prescribed in Example 66b) with 37% HCl in diethylene glycol dimethyl ether and worked up. Colorless crystals, melting point: 118° C (from a small amount of ethanol).

reactant | 3'-sulfamoyl-diazoacetophenone | 9.5 g | S(N)(=O)(=O)C=1C=C(C=CC1)C(C=[N+]=[N-])=O | C8H7N3O3S
reactant | HCl | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
solvent | diethylene glycol dimethyl ether | COCCOCCOC | C6H14O3
product | 2-Chloro-3'-sulfamoylacetophenone | ClCC(=O)C1=CC(=CC=C1)S(N)(=O)=O | C8H8ClNO3S
